US07863314B2
Preparation of 3-[5-Amino-4-(3-cyanobenzoyl)-pyrazol-1-yl]-N-cyclopropyl-4-methylbenzamide
To a solution of 3-[5-amino-4-(3-iodobenzoyl)-pyrazol-1-yl]-N-cyclopropyl-4-methylbenzamide (110 mg, 0.23 mmol) in DMF (5 mL) was added CuCN (40 mg, 0.45 mmol) and tetrakis(triphenylphosphine)palladium (catalytic) and the mixture was heated at 100° C. over night under N2. The solvent was removed and the residue was suspended in EtOAc, and solids were filtered off. The filtrate was washed by water, brine, dried over Na2SO4 and concentrated. The crude product was purified by column chromatography on silica gel (EtOAc). Product was obtained as a beige solid (30 mg, 34%). HPLC (4 minute 10-90 gradient) tR 2.02 min; MS m/z 386.13 [M+H]+.

reactant | 3-[5-amino-4-(3-iodobenzoyl)-pyrazol-1-yl]-N-cyclopropyl-4-methylbenzamide | 0.23 mmol, 110 mg | NC1=C(C=NN1C=1C=C(C(=O)NC2CC2)C=CC1C)C(C1=CC(=CC=C1)I)=O | C21H19IN4O2
reactant | CuCN | 0.45 mmol, 40 mg | C(#N)[Cu]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-[5-Amino-4-(3-cyanobenzoyl)-pyrazol-1-yl]-N-cyclopropyl-4-methylbenzamide | 30 mg, 34% | NC1=C(C=NN1C=1C=C(C(=O)NC2CC2)C=CC1C)C(C1=CC(=CC=C1)C#N)=O | C22H19N5O2
